Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Increasing left wrist pain s/p cat bite
 
Major Surgical or Invasive Procedure:
BEDSIDE PROCEDURE:
Using local field blocks a small ellipse of tissue above each 
puncture wound was excised. All wounds were irrigated, left 
open,
soaked in betadine-saline, and then elevated in a volar resting
splint. 

 
History of Present Illness:
Healthy ___ RHD woman bitten once on the ulnar aspect of the 
left wrist by her own cat at 6:30am ___. She sustained 
discrete 4 puncture wounds, two on the dorsal aspect of the 
wrist and two on the volar aspect of the wrist. Over the course 
of the day her left wrist became progressively more painful. The 
pain is worsened by any motion at the wrist. In addition to pain 
she has
noticed some mild redness and mild swelling around the bite 
marks. No weakness/numbness/tingling. No history of injury to 
the arms/wrist/hands. Last tetanus booster was ___ years ago.

 
Past Medical History:
Left shoulder injury ___ years ago
laprascopic cholecystectomy

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
98.5, 60, 140/80, 16, 100%RA
Well-appearing woman
Left upper extremity with four discrete dry <5mm diameter
puncture marks about the ulnar aspect of the wrist, two dorsal
and two volar, in a pattern consistent with a single cat bite.
There is mild erythema and swelling about the wounds. No
bleeding. No significant wound drainage. Sensation is intact and
normal in all distributions throughout the forearm, wrist, and
hand. Strength is normal. The wrist is tender to passive range 
of
motion.

 
Pertinent Results:
___ 06:15PM   GLUCOSE-80 UREA N-10 CREAT-0.7 SODIUM-137 
POTASSIUM-5.1 CHLORIDE-103 TOTAL CO2-24 ANION GAP-15
___ 06:15PM   estGFR-Using this
___ 06:15PM   WBC-18.1* RBC-3.93* HGB-12.8 HCT-36.6 MCV-93 
MCH-32.6* MCHC-34.9 RDW-12.9
___ 06:15PM   NEUTS-65.6 ___ MONOS-3.7 EOS-1.6 
BASOS-0.4
___ 06:15PM   PLT COUNT-383
___ 04:20PM URINE  HOURS-RANDOM
___ 04:20PM URINE  UCG-NEGATIVE
___ 06:55AM BLOOD WBC-14.3* RBC-3.73* Hgb-12.1 Hct-35.8* 
MCV-96 MCH-32.6* MCHC-34.0 RDW-12.8 Plt ___
___ 06:55AM BLOOD Neuts-73.6* ___ Monos-3.4 Eos-1.0 
Baso-0.8
___ 06:55AM BLOOD Plt ___
___ 08:10AM BLOOD WBC-11.6* RBC-3.74* Hgb-12.1 Hct-35.4* 
MCV-95 MCH-32.2* MCHC-34.1 RDW-12.0 Plt ___
___ 08:10AM BLOOD Plt ___
___ 08:10AM BLOOD Glucose-92 UreaN-8 Creat-0.7 Na-139 K-4.1 
Cl-104 HCO3-26 AnGap-13
___ 08:10AM BLOOD Calcium-9.0 Phos-3.8 Mg-2.1
.
RADIOLOGY:
Radiology Report WRIST(3 + VIEWS) LEFT Study Date of ___ 
6:26 ___ 
IMPRESSION: No radiopaque foreign body or fracture.
 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ for observation and treatment of a cat bite to your 
left wrist.  Her left wrist had a bedside incision and drainage 
at the site of bite puncture wounds.  Her left hand/wrist was 
soaked in warm betadine solution baths every 6 hours and her 
left hand/forearm was splinted and elevated at all other times. 
.
Neuro: The patient was given Percocet for her pain which 
provided good relief by report. 
.
CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
.
Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
.
GI/GU: The patient was maintained on a regular diet which she 
tolerated while during her stay.  She was started on a bowel 
regimen to encourage bowel movement.  Intake and output were 
closely monitored. 
.
ID: Post-operatively, the patient was started on IV Unasyn, then 
switched to PO Augmentin x 10 days for discharge home. The 
patient's temperature was closely watched for signs of 
infection. 
.
Prophylaxis: The patient was encouraged to get up and ambulate 
as early as much as possible. 
.
At the time of discharge on hospital day #3, the patient was 
doing well, afebrile with stable vital signs, tolerating a 
regular diet, ambulating, voiding without assistance, and pain 
was well controlled. Left wrist pain, swelling, erythema and ROM 
showed clear improvement upon discharge home.

 
Medications on Admission:
NONE
 
Discharge Medications:
1. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q3H (every 3 hours) as needed for pain: Max 12/day. Each tab has 
325mg of tylenol. Do not exceed 4gms/4000mgs of tylenol per day.
Disp:*60 Tablet(s)* Refills:*0*
2. Augmentin 875-125 mg Tablet Sig: One (1) Tablet PO twice a 
day for 10 days.
Disp:*20 Tablet(s)* Refills:*0*
3. ibuprofen 200 mg Tablet Sig: ___ Tablets PO every six (6) 
hours: Do not exceed 2400mg/day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cellulitis left wrist s/p cat bite

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted on ___ for observation and treatment of a 
cat bite to your left wrist.  Please read the following 
instructions.
.
Followup Instructions:
___